US05273990
(S)-2-t-Butoxycarbonylamino-3-biphenyl-4-yl-propionic acid (J. Org. Chem., 1992, 57, 379; 20 g, 58 mmol) in ethyl acetate (300 mL) and methylene chloride (75 mL) is cooled under nitrogen to 0° with an ice bath and treated with N-methylmorpholine (6.5 mL, 58 mmol). Isobutyl chloroformate (7.6 mL, 58 mmol) is added dropwise. After 5 minutes of stirring, 3-aminopropionitrile (4.52 g, 64 mmol) in methylene chloride (50 mL) is added over 4 minutes. Stirring is continued for 1 hour at 0° then for 4 hours at room temperature. Ethyl acetate (300 mL) is added and the solution is successively washed with cold water (100 mL), saturated sodium bicarbonate (100 mL) and water (100 mL). The organic layer is dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The residue is triturated with ether (150 mL). The solid is filtered off, washed with cold ether and dried under high vacuum to give (S)-2-t-butoxycarbonylamino-3-biphenyl-4-yl-N-(2-cyanoethyl)-propionamide as a colorless crystalline solid, m.p. 163°-164°; [α]D =+3.58° (c 1, CHCl3).

reactant | (S)-2-t-Butoxycarbonylamino-3-biphenyl-4-yl-propionic acid | 58 mmol, 20 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CC1=CC=C(C=C1)C1=CC=CC=C1 | C20H23NO4
reactant | N-methylmorpholine | 58 mmol, 6.5 mL | CN1CCOCC1 | C5H11NO
reactant | Isobutyl chloroformate | 58 mmol, 7.6 mL | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 3-aminopropionitrile | 64 mmol, 4.52 g | NCCC#N | C3H6N2
solvent | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | 75 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
solvent | Ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
product | (S)-2-t-butoxycarbonylamino-3-biphenyl-4-yl-N-(2-cyanoethyl)-propionamide | C(C)(C)(C)OC(=O)N[C@H](C(=O)NCCC#N)CC1=CC=C(C=C1)C1=CC=CC=C1 | C23H27N3O3
